US08466282B2
Methyl 2-ethoxy-5-(4-methoxybutyl)-1-phenyl-1H-imidazole-4-carboxylate
Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate (740 mg) was dissolved in acetonitrile (8 ml), a 1M solution (6.1 ml) of trimethyloxonium tetrafluoroborate in dichloromethane was added and the reaction mixture was stirred at room temperature for 3 days. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-80:20) was concentrated under reduced pressure to give the object product (79 mg).

reactant | Methyl 5-(4-methoxybutyl)-2-oxo-1-phenyl-2,3-dihydro-1H-imidazole-4-carboxylate | 740 mg | COCCCCC1=C(NC(N1C1=CC=CC=C1)=O)C(=O)OC | C16H20N2O4
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 2-ethoxy-5-(4-methoxybutyl)-1-phenyl-1H-imidazole-4-carboxylate | 79 mg | C(C)OC=1N(C(=C(N1)C(=O)OC)CCCCOC)C1=CC=CC=C1 | C18H24N2O4
